US05763463
Preparation of N-(3-chloro-2-ethyl-pyridin-4-yl)-4-[(5-nitropyridin-2-yl)oxy]phenylacetamide (Intermediate No. 16)
0.59 g (2 mmol) of N-(3-chloro-2-ethylpyridin-4-yl)-4-hydroxyphenylacetamide, 0.32 g (2.2 mmol) of potassium carbonate, 0.35 g (2.2 mmol) of 2-chloro-5-nitropyridine and 0.01 g of sodium 4-toluenesulfinate were dissolved in 5 ml of N,N-dimethylformamide, and the solution was stirred for 50 minutes at 80° C. After completion of the reaction, the reaction solution was poured into water and extracted twice with ethyl acetate. The organic layer was washed with water and then dried over anhydrous magnesium sulfate. Then, ethyl acetate was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (developing solvent: n-hexane/ethyl acetate) to obtain 0.5 g of the desired product as a milky white powder (melting point: 128° to 131° C.).

reactant | N-(3-chloro-2-ethylpyridin-4-yl)-4-hydroxyphenylacetamide | 2 mmol, 0.59 g | ClC=1C(=NC=CC1NC(CC1=CC=C(C=C1)O)=O)CC | C15H15ClN2O2
reactant | potassium carbonate | 2.2 mmol, 0.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-nitropyridine | 2.2 mmol, 0.35 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | sodium 4-toluenesulfinate | 0.01 g | C1(=CC=C(C=C1)S(=O)[O-])C.[Na+]
product | N-(3-chloro-2-ethyl-pyridin-4-yl)-4-[(5-nitropyridin-2-yl)oxy]phenylacetamide | 0.5 g | ClC=1C(=NC=CC1NC(CC1=CC=C(C=C1)OC1=NC=C(C=C1)[N+](=O)[O-])=O)CC | C20H17ClN4O4
